US04367234
5-(2-Chloro-6-fluorophenyl)oxazolidine-2,4-dione
Ethyl 1-(2-chloro-6-fluorophenyl)-1-hydroxymethanecarboximidate hydrochloride (15.0 g., 0.056 mole) and triethylamine (16.8 g., 23.3 ml., 0.167 mole) were taken into 560 ml. of tetrahydrofuran and cooled to 0° C. Phosgene was bubbled through the reaction mixture for 35 minutes. It was then stirred for 2.5 hours at room temperature, poured into 600 cc. of crushed ice and extracted with three portions of ethyl acetate. The combined extracts were washed with water, washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to product (14.4 g.). Recrystallization from toluene afforded purified 5-(2-chloro-6-fluorophenyl)oxazolidine-2,4-dione [10.7 g., 83%; m.p. 153°-155° C.; ir (KBr) 1820, 1740 cm-1 ].

reactant | Ethyl 1-(2-chloro-6-fluorophenyl)-1-hydroxymethanecarboximidate hydrochloride | 0.056 mole, 15.0 g | Cl.ClC1=C(C(=CC=C1)F)C(C(OCC)=N)O
reactant | triethylamine | 0.167 mole, 23.3 ml, 16.8 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-Chloro-6-fluorophenyl)oxazolidine-2,4-dione | ClC1=C(C(=CC=C1)F)C1C(NC(O1)=O)=O | C9H5ClFNO3
